US09023849B2
Methyl 2-{3-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate
615 mg (3.27 mmol) of dimethyl 2,2-dimethyl-3-oxobutanedioate were initially charged in 13 ml of ethanol and heated to reflux. Subsequently, 652 mg (2.18 mmol) of 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide suspended in 13 ml of ethanol were added and the mixture was boiled under reflux overnight. After cooling, the mixture was filtered, the filtercake was washed with a little ethanol and the filtrate was concentrated. The residue was purified by means of preparative HPLC (eluent: acetonitrile/water, gradient 30:70→100:0). 182 mg of the target compound were obtained (19% of theory).

reactant | dimethyl 2,2-dimethyl-3-oxobutanedioate | 3.27 mmol, 615 mg | CC(C(=O)OC)(C(C(=O)OC)=O)C | C8H12O5
reactant | 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide | 2.18 mmol, 652 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(NN)=N)C=CC=C1 | C14H14FN7
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | Methyl 2-{3-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 182 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1 | C21H20FN7O3
